US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}BIS(2-CHLOROBENZYL)AMINE
This compound was prepared according to the procedure of example 41, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine and 1-bromomethyl-2-chloro-benzene MS (ESI) m/z 627.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 1-bromomethyl-2-chloro-benzene | BrCC1=C(C=CC=C1)Cl | C7H6BrCl
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}BIS(2-CHLOROBENZYL)AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N(CC1=C(C=CC=C1)Cl)CC1=C(C=CC=C1)Cl)C(F)(F)F | C37H27Cl2F3N2
